US04946862
A solution of 2 g of diisopropylamine in 10 ml of tetrahydrofuran is cooled at -60° C and 10 ml of 1.6 M n-butyl lithium in hexane are added dropwise to the solution. The mixture is stirred at the same temperature for 30 minutes to give a solution of lithium diisopropylamide. A solution of 2 g of 1-(2-thienyl)propyl isocyanide in 10 ml of tetrahydrofuran is added dropwise at -60° C. to the solution obtained above and the mixture is stirred at the same temperature for 30 minutes. A solution of 3.8 g of 3-(3,4,5-trimethoxyphenyl)propyl chloride in 5 ml of tetrahydrofuran is added dropwise to the mixture at the same temperature, and said mixture is stirred for 1 hour. The reaction mixture is neutralized with acetic acid, and ethyl acetate and water are added thereto. The organic layer is separated therefrom, washed with an aqueous saturated sodium chloride solution, dried and evaporated to remove solvent. The residue is purified by silica gel column chromatography (solvent; n-hexane:ethyl acetate=4:1) to give 3.4 g of 1-ethyl-4-(3,4,5-trimethoxyphenyl)-1-(2-thienyl)butyl isocyanide as a colorless oil. yield: 71.5%

reactant | 1-(2-thienyl)propyl isocyanide | 2 g | S1C(=CC=C1)C(CC)[N+]#[C-] | C8H9NS
reactant | 3-(3,4,5-trimethoxyphenyl)propyl chloride | 3.8 g | COC=1C=C(C=C(C1OC)OC)CCCCl | C12H17ClO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-ethyl-4-(3,4,5-trimethoxyphenyl)-1-(2-thienyl)butyl isocyanide | 3.4 g, yield: 71.5% | C(C)C(CCCC1=CC(=C(C(=C1)OC)OC)OC)(C=1SC=CC1)[N+]#[C-] | C20H25NO3S
